US09388189B2
b) (S)-tert-Butyl (1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate
Triphenylphosphine (6.8 g, 25.93 mmol) was dissolved in 50 mL dichloromethane. Bromine (1.33 mL, 25.97 mmol) was added dropwise and the reaction was stirred at room temperature for 30 min. Triethylamine (10.3 mL, 73.9 mmol) and (S)-tert-butyl (1-((3-methyl-2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)-1-oxopropan-2-yl)carbamate (7.15 g, 18.5 mmol) suspended in 100 mL dichloromethane was added and the reaction mixture was stirred at 60° C. for 2 h. The mixture was concentrated to dryness and was re-dissolved in a pressure reactor with a solution of ammonia (7M in methanol, 350 mL, 2415 mmol). The mixture was heated at 100° C. for 32 h, then cooled at room temperature and evaporated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic layer was washed with water, brine and dried over sodium sulphate, filtered and concentrated. The residue was purified using Isolera® Purification System (0% to 50%, hexane-ethyl acetate) to obtain 0.95 g (14% yield) of the title compound as a yellow solid.

reactant | Triphenylphosphine | 25.93 mmol, 6.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Bromine | 25.97 mmol, 1.33 mL | BrBr | Br2
reactant | Triethylamine | 73.9 mmol, 10.3 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-tert-butyl (1-((3-methyl-2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)-1-oxopropan-2-yl)carbamate | 18.5 mmol, 7.15 g | CC1=C(N(C=C1)NC([C@H](C)NC(OC(C)(C)C)=O)=O)C(NC1=CC=CC=C1)=O | C20H26N4O4
reactant | ammonia | 2415 mmol, 7M, 350 mL | N | H3N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-tert-Butyl (1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 0.95 g, 14% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O | C20H24N4O3
